US05430047
Step B: Preparation of 3-(3-Oxo-3-phenyl-1-propenyl)-benzoic acid, methyl ester
A slurry of 3-(3-oxo-3-phenyl-1-propenyl)-benzoic acid (2.84 g, 11.26 mmol) in methanol (150 mL) is treated with a few drops of sulfuric acid and heated under reflux for 8 hours. Upon cooling, a solid forms which is collected by filtration and washed thoroughly with methanol to provide 0.9 g of the title compound.

reactant | 3-(3-oxo-3-phenyl-1-propenyl)-benzoic acid | 11.26 mmol, 2.84 g | O=C(C=CC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C16H12O3
reactant | methanol | 150 mL | CO | CH4O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | 3-(3-Oxo-3-phenyl-1-propenyl)-benzoic acid, methyl ester | 0.9 g | O=C(C=CC=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C17H14O3
